US06852742B2
2-Isopropoxy-6-pentadecyl benzaldehyde (3.1 g, 8.3 mmol) and methyl acetoacetate (0.96 g, 8.3 mmol) were dissolved in n-butanol (20 mL). Acetic acid (0.5 g, 8.3 mmol) and piperidine (0.7 g, 8.3 mmol) were added and stirred at room temperature for 3-4 hrs. methyl-3-amino crotonate (0.97 g, 8.3 mmol) was then added and refluxed for 10 hrs. n-Butanol was evaporated and reaction mixture was washed with distilled water and extracted with dichloromethane (10 mL). Organic layer was dried over sodium sulfate, evaporated and compound was purified by column chromatography using silicagel (100-200 mesh) with hexane:EtOAc (94:6) solvent system to give dimethyl 1,4-dihydro-4-(2′-isopropoxy-6′-pentadecylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate as viscous liquid.

reactant | 2-Isopropoxy-6-pentadecyl benzaldehyde | 8.3 mmol, 3.1 g | C(C)(C)OC1=C(C=O)C(=CC=C1)CCCCCCCCCCCCCCC | C25H42O2
reactant | methyl acetoacetate | 8.3 mmol, 0.96 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | Acetic acid | 8.3 mmol, 0.5 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 8.3 mmol, 0.7 g | N1CCCCC1 | C5H11N
reactant | methyl-3-amino crotonate | 8.3 mmol, 0.97 g | CC=CC(=O)ONC | C5H9NO2
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | dimethyl 1,4-dihydro-4-(2′-isopropoxy-6′-pentadecylphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | C(C)(C)OC1=C(C(=CC=C1)CCCCCCCCCCCCCCC)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C35H55NO5
